US07968711B2
4,5-Dichloro-2-phenylpyridazin-3-one
Mucochloric acid (9.3 g, 0.055 moles) was dissolved in ethanol (60 ml) and phenyl hydrazine (5.4 g, 0.05 moles) was added. The reaction mixture was stirred at room temperature for 2 hours. Evaporated to a low bulk and the residue was suspended in glacial acetic acid (60 ml). Refluxed with stirring for 3 hours. Evaporated to dryness and triturated with methanol to give the required product as a pale brown solid. (11.0 g, 91%)

reactant | Mucochloric acid | 0.055 moles, 9.3 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
reactant | phenyl hydrazine | 0.05 moles, 5.4 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4,5-Dichloro-2-phenylpyridazin-3-one | ClC=1C(N(N=CC1Cl)C1=CC=CC=C1)=O | C10H6Cl2N2O
